US08383644B2
(S)-3-(4-Hydroxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester (20 mg) was dissolved in DCM and cyclopentane-ethanol (5 eq.), triphenyl phosphine (5 eq.) and DIAD (4.5 eq.) added. The reaction mixture stirred at room temperature and was directly purified over silica (hexanes to 9:1 hexanes EtOAc to 7:3 hexanes EtOAc). This ester was hydrolyzed according to General Procedure AB to give (3S,8S)-3-[4-(2-cyclopentyl-ethoxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid. This acid was coupled with (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester dihydrochloride according to General Procedure L to give (S)-2-{[(3S,8S)-3-[4-(2-cyclopentyl-ethoxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester. This ester was hydrolyzed according to General Procedure B to give the title compound (5 mg). LCMS (m/z): 811.

reactant | (S)-3-(4-Hydroxy-phenyl)-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid methyl ester | 20 mg | COC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)O)[C@@H](CC)C3=CC=CC=C3 | C28H29NO5
reactant | cyclopentane-ethanol | 5 eq. | C1(CCCC1)CCO | C7H14O
reactant | triphenyl phosphine | 5 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 4.5 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (3S,8S)-3-[4-(2-cyclopentyl-ethoxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid | C1(CCCC1)CCOC1=CC=C(C=C1)[C@@H]1OC=2C(=CC=3C[C@H](N(CC3C2)[C@@H](CC)C2=CC=CC=C2)C(=O)O)OC1 | C34H39NO5
